US09278950B2
Step 2. 3-Amino-7-vinylquinoline-2-carboxylic acid
Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate (1.50 g, 3.49 mmol), K3PO4 (1.48 g, 6.97 mmol), 1,4-dioxane (45 mL), water (7.5 mL) and 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (0.80 g, 5.2 mmol) were added to a flask. The reaction mixture was purged with nitrogen for 10 min., then dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.18 g, 0.23 mmol) was added. The flask was then sealed and the reaction mixture was heated at 80° C. for 1 h, then allowed to cool to room temperature. After the reaction mixture was allowed to cool, aq. NaOH (2.5 M; 45 mL) was added, the resulting cloudy mixture was then heated at 95° C. for 3 h, and then allowed to cool. The crude product formed as a precipitate, which was collected by vacuum filtration and used in the next step without further purification. LCMS calc. for C12H11N2O2 (M+H)+: m/z=215.2. Found: 215.0.

reactant | Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate | 3.49 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)OCC | C20H17BrN2O4
reactant | K3PO4 | 6.97 mmol, 1.48 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 5.2 mmol, 0.80 g | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | NaOH | 2.5 M, 45 mL | [OH-].[Na+]
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.23 mmol, 0.18 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
solvent | water | 7.5 mL | O | H2O
solvent | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
product | 3-Amino-7-vinylquinoline-2-carboxylic acid | NC=1C(=NC2=CC(=CC=C2C1)C=C)C(=O)O | C12H10N2O2
